US07115597B2
(6-Aminopyrimidin-4-yl)methanol (24-5)
To a solution of tert-butyl 6-(methoxymethyl)pyrimidin-4-ylcarbamate (100 mg, 0.42 mmole) in CH2Cl2 (2 mL) was added BBr3 (2.1 mL, 1M solution in CH2Cl2, 2.1 mmole) dropwise at −20° C. After 1.5 hours, the mixture was quenched with MeOH and concentrated. The solid was taken up in MeOH and concentrated (2×) and dried in vacuo to give the title compound as a tan solid. 1H-NMR (300 MHz, d6-DMSO) δ 8.63 (s, 1H), 6.64 (s, 1H), 4.50 (s, 2H).

reactant | tert-butyl 6-(methoxymethyl)pyrimidin-4-ylcarbamate | 0.42 mmole, 100 mg | COCC1=CC(=NC=N1)NC(OC(C)(C)C)=O | C11H17N3O3
reactant | BBr3 | 2.1 mmole, 1M, 2.1 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-Aminopyrimidin-4-yl)methanol | NC1=CC(=NC=N1)CO | C5H7N3O
